US09085523B2
3-hexadecylbenzoic acid (Compound 5)
Meta-toluic acid (4.0 g) was dissolved in tetrahydrofuran (98 mL). Thereto, 2M lithium diisopropylamide (59 mL) was added at room temperature, followed by stirring for 1 hour. Thereto, 1-bromo pentadecane (9.4 mL) was added, followed by stirring at room temperature for 21 hours. The reaction solution was poured to 1N hydrochloric acid, followed by extraction with ethyl acetate. The organic layer was washed with aqueous saturated sodium chloride solution, dried with anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to obtain the title compound (3.7 g) having the following physical property values.

reactant | Meta-toluic acid | 4.0 g | C1(=CC(=CC=C1)C(=O)O)C | C8H8O2
reactant | lithium diisopropylamide | 2M, 59 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-bromo pentadecane | 9.4 mL | BrCCCCCCCCCCCCCCC | C15H31Br
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 98 mL | O1CCCC1 | C4H8O
product | 3-hexadecylbenzoic acid | 3.7 g | C(CCCCCCCCCCCCCCC)C=1C=C(C(=O)O)C=CC1 | C23H38O2
